US07745438B2
(2R,5R)-5-[(1S,2S)-1-Benzyloxy-2-dibenzylamino-3-(3,5-difluoro-phenyl)-propyl]-2-(1-fluoromethyl-cyclopentylmethoxy)-morpholine-4-carboxylic acid tert-butyl ester
Beginning with (R)-5-[1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-hydroxymorpholine-4-carboxylic acid tert-butyl ester and trifluoromethane-sulfonic acid 1-fluoromethyl-cyclopentylmethyl ester, the desired compound may be prepared essentially as described in Preparation 306.

reactant | (R)-5-[1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-hydroxymorpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1C(C(CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)O | C39H44F2N2O5
reactant | trifluoromethane-sulfonic acid 1-fluoromethyl-cyclopentylmethyl ester | FCC1(CCCC1)COS(=O)(=O)C(F)(F)F | C8H12F4O3S
product | (2R,5R)-5-[(1S,2S)-1-Benzyloxy-2-dibenzylamino-3-(3,5-difluoro-phenyl)-propyl]-2-(1-fluoromethyl-cyclopentylmethoxy)-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1(CCCC1)CF | C46H55F3N2O5
